US05208240
Dissolve the ethyl enolate of (+)-2-[[4-[3-[(6-amino-1-propyl-1,2,3,4-tetrahydro-3-propyl-2,4-dioxo-5-pyrimidinyl)amino]-2-methyl-3-oxopropyl]phenyl]oxy]-acetic acid, 1,1-dimethylethyl ester (0.68 g, 1.28 mmol) in benzene (200 mL) and heat at 70° C. for 20 hours. Evaporate the solvent in vacuo and purify the residue by radial chromatography (30→40→50% ethyl acetate/hexane) to give (+)-2-[4-[2-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]acetic acid, ethyl ester (0.55 g); [α]d 20 =+54.5° (C=0.88, CHCl3).

reactant | (+)-2-[[4-[3-[(6-amino-1-propyl-1,2,3,4-tetrahydro-3-propyl-2,4-dioxo-5-pyrimidinyl)amino]-2-methyl-3-oxopropyl]phenyl]oxy]-acetic acid, 1,1-dimethylethyl ester | 1.28 mmol, 0.68 g | NC1=C(C(N(C(N1CCC)=O)CCC)=O)NC(C(CC1=CC=C(C=C1)OCC(=O)OC(C)(C)C)C)=O | C26H38N4O6
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | (+)-2-[4-[2-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]acetic acid, ethyl ester | 0.55 g | C(CC)N1C(N(C=2NC(=NC2C1=O)C(CC1=CC=C(OCC(=O)OCC)C=C1)C)CCC)=O | C24H32N4O5
